US05965745
To a solution of 4-[5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester (0.82 grams, 1.95 mmol) in a 2:2:1 ratio of methanol:tetrahydrofuran:water (30 mL) was added lithium hydroxide monohydrate (0.41 grams, 0.73 mmol). The resulting solution was stirred for 12 hours at room temperature. The solution was concentrated, and the crude product treated with 1 hydrochloric acid (aq). The product was collected via filtration. Chromatography on silica gel (1:1 hexanes:ethyl acetate→5% methanol:methylene chloride) gave 4-[5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid (0.735 grams, 92 yield).

reactant | 4-[5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester | 1.95 mmol, 0.82 grams | COC(C1=CC(=C(C=C1)CC1=CNC2=CC=C(C=C12)NC(=O)OC1CCCC1)OC)=O | C24H26N2O5
reactant | methanol | CO | CH4O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.73 mmol, 0.41 grams | O.[OH-].[Li+]
solvent | water | 30 mL | O | H2O
product | 4-[5-(cyclopentyloxycarbonyl)amino-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid | 0.735 grams | C1(CCCC1)OC(=O)NC=1C=C2C(=CNC2=CC1)CC1=C(C=C(C(=O)O)C=C1)OC | C23H24N2O5
